### PR TITLE
[Merged by Bors] - chore(NumberTheory/Ostrowski): simplify and golf proofs

### PR DESCRIPTION
**Pull request by fbarroero**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by fbarroero** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/d5f9295ee6f133291935156962a5771e6de852c7?reference=b44f89d15d463ede557bdf673707a8610210becf) for d5f9295ee6f133291935156962a5771e6de852c7 against b44f89d15d463ede557bdf673707a8610210becf are in. No significant results found. @fbarroero

- 🟥 `build//instructions`: **+55.5G** (**+0.04%**)

No significant changes detected.

**Comment by felixpernegger** [comment]
@fbarroero if you havent yet, can you merge master and bench again?

**Comment by fbarroero** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/c8839f5675a64c7b5c530179a2a51b3cd2453e75?reference=01cceef4309e0b28bde5dd951c72960f5282a1ac) for c8839f5675a64c7b5c530179a2a51b3cd2453e75 against 01cceef4309e0b28bde5dd951c72960f5282a1ac are in. No significant results found. @fbarroero

- ✅ `build//instructions`: **-18.3G** (**-0.01%**)

No significant changes detected.

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 1]
```diff
@@ -109,16 +109,15 @@ Every bounded absolute value on `ℚ` is equivalent to a `p`-adic absolute value
 
 /-- The real-valued `AbsoluteValue` corresponding to the p-adic norm on `ℚ`. -/
 def padic (p : ℕ) [Fact p.Prime] : AbsoluteValue ℚ ℝ where
-  toFun x := (padicNorm p x : ℝ)
+  toFun x := padicNorm p x
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: Isnt it nicer to write write down the coercion?

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 2]
```diff
@@ -139,10 +138,10 @@ lemma exists_minimal_nat_zero_lt_and_lt_one :
     rcases eq_or_ne n 0 with rfl | hn
     · simp
     · simp [hf_nontriv, hn]
-  set P := {m : ℕ | 0 < f ↑m ∧ f ↑m < 1} -- p is going to be the minimum of this set.
+  set P := {m : ℕ | 0 < f m ∧ f m < 1} -- p is going to be the minimum of this set.
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: Similarly, this isnt necessarily better (though arguably not worse either)

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 3]
```diff
@@ -151,25 +150,18 @@ variable {p : ℕ} (hp0 : 0 < f p) (hp1 : f p < 1) (hmin : ∀ m : ℕ, 0 < f m
...
-    have hbp : b < a * b := lt_mul_of_one_lt_left (by lia) (by lia)
-    have ha :=
-      le_of_not_gt <| not_and.mp ((hmin a).mt hap.not_ge) (map_pos_of_ne_zero f (mod_cast ha₀))
-    have hb :=
-      le_of_not_gt <| not_and.mp ((hmin b).mt hbp.not_ge) (map_pos_of_ne_zero f (mod_cast hb₀))
-    rw [Nat.cast_mul, map_mul] at hp1
-    exact ((one_le_mul_of_one_le_of_one_le ha hb).trans_lt hp1).false
+  have hp2 : 2 ≤ p := by
+    by_contra! hp
+    interval_cases p <;> simp_all
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: Alternatively, `grind` also works instead of `simp_all`

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 4]
```diff
@@ -151,25 +150,18 @@ variable {p : ℕ} (hp0 : 0 < f p) (hp1 : f p < 1) (hmin : ∀ m : ℕ, 0 < f m
...
+  rw [Nat.prime_iff_not_exists_mul_eq]
+  refine ⟨hp2, ?_⟩
+  rintro ⟨a, b, ha, hb, rfl⟩
+  obtain ⟨ha₀, hb₀⟩ := mul_ne_zero_iff.mp (by omega : a * b ≠ 0)
+  have h {n : ℕ} (hn₀ : n ≠ 0) (hn : n < a * b) : 1 ≤ f n :=
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: can you prove this in tactic mode

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 5]
```diff
@@ -151,25 +150,18 @@ variable {p : ℕ} (hp0 : 0 < f p) (hp1 : f p < 1) (hmin : ∀ m : ℕ, 0 < f m
...
+    le_of_not_gt fun hn₁ ↦
+      (not_le_of_gt hn) <| hmin n ⟨map_pos_of_ne_zero f (mod_cast hn₀), hn₁⟩
+  rw [Nat.cast_mul, map_mul] at hp1
+  exact (not_le_of_gt hp1) <| one_le_mul_of_one_le_of_one_le (h ha₀ ha) (h hb₀ hb)
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]:
```suggestion
  exact not_le_of_gt hp1 <| one_le_mul_of_one_le_of_one_le (h ha₀ ha) (h hb₀ hb)
```

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 6]
```diff
@@ -197,8 +189,7 @@ lemma eq_one_of_not_dvd {m : ℕ} (hpm : ¬ p ∣ m) : f m = 1 := by
       apply rpow_le_rpow_of_exponent_ge hx0 hx1.le
       simp only [one_div, ← log_div_log, log_inv, neg_div, ← div_neg, hM]
       gcongr
-      simp only [Left.neg_pos_iff]
-      exact log_neg (lt_sup_iff.mpr <| .inl hp0) (sup_lt_iff.mpr ⟨hp1, hm⟩)
+      exact neg_pos.mpr <| log_neg (lt_sup_of_lt_left hp0) (max_lt hp1 hm)
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: The previous proof also worked in reducible transparancy mode (`with_reducible`), while this only works and reducible + instances. So this isnt necessarily better

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 7]
```diff
@@ -219,41 +208,36 @@ lemma eq_one_of_not_dvd {m : ℕ} (hpm : ¬ p ∣ m) : f m = 1 := by
...
 /-- If `f` is bounded and not trivial, then it is equivalent to a p-adic absolute value. -/
 theorem equiv_padic_of_bounded :
     ∃! p, ∃ (_ : Fact p.Prime), f.IsEquiv (padic p) := by
-  obtain ⟨p, hfp, hmin⟩ := exists_minimal_nat_zero_lt_and_lt_one hf_nontriv bdd
-  have hprime := is_prime_of_minimal_nat_zero_lt_and_lt_one hfp.1 hfp.2 hmin
-  have hprime_fact : Fact p.Prime := ⟨hprime⟩
-  obtain ⟨t, h⟩ := exists_pos_eq_pow_neg hfp.1 hfp.2 hmin
+  obtain ⟨p, ⟨hp0, hp1⟩, hmin⟩ := exists_minimal_nat_zero_lt_and_lt_one hf_nontriv bdd
+  have hp := is_prime_of_minimal_nat_zero_lt_and_lt_one hp0 hp1 hmin
+  letI : Fact p.Prime := ⟨hp⟩
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: dont use `letI` in (tactic) proofs

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 8]
```diff
@@ -219,41 +208,36 @@ lemma eq_one_of_not_dvd {m : ℕ} (hpm : ¬ p ∣ m) : f m = 1 := by
...
+  obtain ⟨t, ht, hpt⟩ := exists_pos_eq_pow_neg hp0 hp1 hmin
+  have hone {m : ℕ} (hm : ¬p ∣ m) : f m = 1 := eq_one_of_not_dvd bdd hp0 hp1 hmin hm
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: You are only using this once as far as i can see, so there is not reason to add parameters

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 9]
```diff
@@ -219,41 +208,36 @@ lemma eq_one_of_not_dvd {m : ℕ} (hpm : ¬ p ∣ m) : f m = 1 := by
...
   simp_rw [← exists_nat_rpow_iff_isEquiv]
-  refine ⟨p, ⟨hprime_fact, t⁻¹, inv_pos_of_pos h.1, fun n ↦ ?_⟩, fun q ⟨hq_prime, h_equiv⟩ ↦ ?_⟩
-  · have ht : t⁻¹ ≠ 0 := inv_ne_zero h.1.ne'
-    rcases eq_or_ne n 0 with rfl | hn -- Separate cases n = 0 and n ≠ 0
-    · simp [ht]
+  refine ⟨p, ⟨inferInstance, t⁻¹, inv_pos.mpr ht, fun n ↦ ?_⟩, fun q ⟨hq, heq⟩ ↦ ?_⟩
+  · rcases eq_or_ne n 0 with rfl | hn
+    · simp [ht.ne']
     · /- Any natural number can be written as a power of p times a natural number not divisible
       by p  -/
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/Ostrowski.lean]: Is this comment still needed (or appropriate)

**Review by felixpernegger — COMMENTED** [review]
I think this PR is fine; but many of the changes are a bit pedantic / not worth PR-ing.
See also this section of the contribution guide https://leanprover-community.github.io/contribute/index.html#style-changes

In general, I would say PRs about purely about golfing / stylistic stuff are good to make if they boosts perfomance or cut down proofs significantly, neither of which this PR is doing

EDIT: I just saw that you are one of the main authors of this file, in which case my above comment can definitely be seen in a more relaxed way :)

**Comment by fbarroero** [comment]
> I think this PR is fine; but many of the changes are a bit pedantic / not worth PR-ing. See also this section of the contribution guide https://leanprover-community.github.io/contribute/index.html#style-changes
> 
> In general, I would say PRs about purely about golfing / stylistic stuff are good to make if they boosts perfomance or cut down proofs significantly, neither of which this PR is doing
> 
> EDIT: I just saw that you are one of the main authors of this file, in which case my above comment can definitely be seen in a more relaxed way :)

Thanks for having had a look. Some changes are intended to simplify parts of the proof and others to increase automation. Some are certainly useless :)

**Review by felixpernegger — APPROVED** [review]

**Comment by MichaelStollBayreuth** [comment]
Thanks!

maintainer merge

**Comment by pechersky** [comment]
There's still a terminal refine in the new code I think

**Comment by fbarroero** [comment]
> There's still a terminal refine in the new code I think

Sorry. It should be gone now

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
